US09145415B2
To a solution of tris(dibenzylideneacetone)dipalladium(0) (80 mg) and 4,5′-bis(diphenylphosphino)-9,9′-dimethylxanthene (100 mg) in 1,4-dioxane (5 mL), ethyl 6-chloro-4-(propylamino)nicotinate (S14, 210 mg), 3-fluoroaniline (193 mg) and cesium carbonate (565 mg) were added at room temperature, and the mixture was stirred at 80 to 90° C. for 5 hours. The reaction mixture was cooled to room temperature, and then saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture. The insoluble matter was removed by filtration through Florisil. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 90 to 60% hexane in ethyl acetate) to obtain ethyl 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinate (S15, 247 mg).

reactant | ethyl 6-chloro-4-(propylamino)nicotinate | 210 mg | ClC1=NC=C(C(=O)OCC)C(=C1)NCCC | C11H15ClN2O2
reactant | 3-fluoroaniline | 193 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | cesium carbonate | 565 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinate | 247 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=O)OCC)C(=C1)NCCC | C17H20FN3O2
